US08377949B2
To a mixture of isatoic anhydride (500 mg, 3.07 mmol) and 1-(4-chloro-phenyl)-ethylamine (530 mg, 3.68 mmol) in CH2Cl2 (20 mL) is added diisopropyl ethyl amine (1.2 mL, 6.89 mmol). The mixture is stirred at room temperature for 16 hours. The reaction mixture is diluted with EtOAc (100 mL) and is washed with H2O (50 mL×3). The organic layer is dried over sodium sulfate, concentrated and the resulting residue is purified by flash chromatography with 25% EtOAc in Hexane as the eluent to afford the desired to afford the desired 2-amino-N-[1-(4-chloro-phenyl)-ethyl]-benzamide (115 mg, 14%).

reactant | isatoic anhydride | 3.07 mmol, 500 mg | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1-(4-chloro-phenyl)-ethylamine | 3.68 mmol, 530 mg | ClC1=CC=C(C=C1)C(C)N | C8H10ClN
reactant | diisopropyl ethyl amine | 6.89 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-amino-N-[1-(4-chloro-phenyl)-ethyl]-benzamide | 115 mg, 14% | NC1=C(C(=O)NC(C)C2=CC=C(C=C2)Cl)C=CC=C1 | C15H15ClN2O
